US06084057
A solution of 4-(10-Hydroxy-2,2,3,3,4,4,5,5,6,6,7,7,8,8,9,9-hexadecafluorodecyloxy)-2,3,4,5,6-pentafluorobenzophenone(7.14 g), 2,4-dinitrochlorobenzene (2.42 g) potassium carbonate (2.76 g) and NMP (15 mL) is heated to 75-80° C. for 24 hrs. The solution is further processed as described in example 2 to give 4-[10-(2,4-dinitrophenoxy)-2,2,3,3,4,4,5,5,6,6,7,7,8,8,9,9-hexadecafluorodecyloxy]-2,3,4,5,6-pentafluorobenzophenone.

reactant | 4-(10-Hydroxy-2,2,3,3,4,4,5,5,6,6,7,7,8,8,9,9-hexadecafluorodecyloxy)-2,3,4,5,6-pentafluorobenzophenone | 7.14 g | OCC(C(C(C(C(C(C(C(COC1(C(C(=C(C(=O)C2=CC=CC=C2)C(=C1F)F)F)F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C23H11F21O3
reactant | 2,4-dinitrochlorobenzene | 2.42 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
product | 4-[10-(2,4-dinitrophenoxy)-2,2,3,3,4,4,5,5,6,6,7,7,8,8,9,9-hexadecafluorodecyloxy]-2,3,4,5,6-pentafluorobenzophenone | [N+](=O)([O-])C1=C(OCC(C(C(C(C(C(C(C(COC2(C(C(=C(C(=O)C3=CC=CC=C3)C(=C2F)F)F)F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)C=CC(=C1)[N+](=O)[O-] | C29H13F21N2O7
